US09034866B2
Synthesis of 2-bromo-8-chloro-3-fluoro-6,7-dihydro-5H-5,7-methanobenzo[7]annulene-9-carbaldehyde
To anhydrous N,N-dimethylformamide (0.1 mL) at 0-5° C. under an atmosphere of nitrogen was introduced phosphorous oxychloride (0.09 mL, 0.94 mmol) dropwise over 10 minutes and the reaction mixture warmed to room temperature for 1 hr. The reaction mixture was cooled to +5-10° C. and a solution of 2-bromo-3-fluoro-6,7-dihydro-5H-5,7-methanobenzo[7]annulen-8(9H)-one (100 mg, 0.37 mmol) in anhydrous N,N-dimethylformamide (0.2 mL) introduced. After 1 hr at this temperature, the reaction mixture was warmed to 72° C. for 3.5 hr. After cooling to room temperature, ice-water (−5 mL) was introduced and the aqueous solution extracted with ethyl acetate (2×5 mL). The combined ethyl acetate extracts were dried over sodium sulfate, filtered and evaporated in vacuo to furnish the crude title compound (125 mg at 79% purity LC-MS (UV215) as an orange wax. This compound was carried through to the next synthetic step without further purification: 1H NMR (500 MHz, CDCl3) δ1.66-1.74 (m, 2H), 2.76-2.84 (m, 2H), 3.36 (td, J=7.88, 4.10 Hz, 1H), 3.48 (td, J=7.88, 4.10 Hz, 1H), 6.91 (d, J=8.83 Hz, 1H), 7.96 (d, J=7.25 Hz, 1H), 10.33 (s, 1H)

reactant | phosphorous oxychloride | 0.94 mmol, 0.09 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 2-bromo-3-fluoro-6,7-dihydro-5H-5,7-methanobenzo[7]annulen-8(9H)-one | 0.37 mmol, 100 mg | BrC=1C(=CC2=C(CC(C3CC2C3)=O)C1)F | C12H10BrFO
reactant | N,N-dimethylformamide | 0.2 mL | CN(C=O)C | C3H7NO
reactant | N,N-dimethylformamide | 0.1 mL | CN(C=O)C | C3H7NO
product | 2-bromo-8-chloro-3-fluoro-6,7-dihydro-5H-5,7-methanobenzo[7]annulene-9-carbaldehyde | BrC=1C(=CC2=C(C(=C(C3CC2C3)Cl)C=O)C1)F | C13H9BrClFO
